US07217740B2
4-fluorobenzenethiol (0.32 g, 2.5 mmol) was taken up in acetonitrile (15 mL) and degassed for 15 minutes. 2-Chloro-5-iodopyridine (0.6 g, 2.51 mmol) and potassium carbonate (0.52 g, 3.76 mmol) were added and the reaction heated to reflux for 18 hours. The cooled reaction mixture was diluted with water and extracted with ethyl acetate (×2). The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo while loading onto silica. Dry flash column chromatography using isohexane-2% ethyl acetate/isohexane gave a 3:1 mixture of 2-[(4-fluorophenyl)thio]-5-iodopyridine:2-chloro-5-iodopyridine (0.7 g). This was taken up in methanol (10 mL) and treated portionwise with OXONE® (1.04 g, 1.69 mmol). The suspension was stirred at room temperature for 5 days. A further portion of OXONE® (0.51 g) was added and stirring continued overnight. Saturated sodium hydrogencarbonate solution was added and the suspension stirred for 45 minutes before being extracted with ethyl acetate (×2). The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo while loading onto silica. Dry flash column chromatography using 5–15% ethyl acetate/isohexane gave 2-[(4-fluorophenyl)sulfonyl]-5-iodopyridine (0.17 g), a 3.6:1 mixture of 2-[(4-fluorophenyl)sulfonyl]-5-iodopyridine:2-[(4-fluorophenyl)sulfinyl]-5-iodopyridine (0.2 g) and a 1.15:1 mixture of 2-[(4-fluorophenyl)sulfinyl]-5-iodopyridine:2-[(4-fluorophenyl)sulfonyl]-5-iodo-pyridine (0.14 g).

reactant | 4-fluorobenzenethiol | 2.5 mmol, 0.32 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | 2-Chloro-5-iodopyridine | 2.51 mmol, 0.6 g | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | potassium carbonate | 3.76 mmol, 0.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[(4-fluorophenyl)thio]-5-iodopyridine | FC1=CC=C(C=C1)SC1=NC=C(C=C1)I | C11H7FINS
reactant | 2-chloro-5-iodopyridine | 0.7 g | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 2-[(4-fluorophenyl)sulfonyl]-5-iodopyridine | 0.17 g | FC1=CC=C(C=C1)S(=O)(=O)C1=NC=C(C=C1)I | C11H7FINO2S
